US06075037
d) 3-(4-Methoxyphenyl)-1-(3,4-methylenedioxybenzyl)-pyrrolo[2,3-b]pyridine-2-carboxylic acid
A solution of ethyl 3-(4-methoxyphenyl)-1-(3,4-methylenedioxybenzyl)-pyrrolo[2,3-b]pyridine-2-carboxylate in EtOH with aqueous 1 N NaOH is stirred under an argon atmosphere first at room temperature then at reflux temperature. The reaction mixture is cooled to room temperature then poured into H2O and the solvent volume reduced in vacuo. The aqueous solution is extracted with Et2O and the Et2O extract discarded. The aqueous layer is acidified with 6 N HCl and the product extracted into EtOAc. The organic extract is washed with H2O then saturated aqueous NaCl, dried (Na2SO4) and the solvent removed in vacuo to afford the title compound.

reactant | ethyl 3-(4-methoxyphenyl)-1-(3,4-methylenedioxybenzyl)-pyrrolo[2,3-b]pyridine-2-carboxylate | COC1=CC=C(C=C1)C1=C(N(C2=NC=CC=C21)CC2=CC1=C(C=C2)OCO1)C(=O)OCC | C25H22N2O5
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | H2O | O | H2O
solvent | EtOH | CCO | C2H6O
product | 3-(4-Methoxyphenyl)-1-(3,4-methylenedioxybenzyl)-pyrrolo[2,3-b]pyridine-2-carboxylic acid | COC1=CC=C(C=C1)C1=C(N(C2=NC=CC=C21)CC2=CC1=C(C=C2)OCO1)C(=O)O | C23H18N2O5
